US08604061B2
b) ((R)-2-Benzenesulfonyl-1-hydroxymethyl-ethyl)-carbamic acid tert-butyl ester
To a solution of lithium borohydride in tetrahydrofuran (2M, 1.14 ml, 2.28 mmol) was added slowly at 0° C. a solution of (R)-3-benzenesulfonyl-2-tert-butoxycarbonylamino-propionic acid methyl ester (0.52 g, 1.51 mmol) in tetrahydrofuran (3 ml). After stirring at room temperature for 2.5 hours methanol was added (0.5 ml). The mixture was partitioned between ethyl acetate and saturated ammoniumchloride solution. The combined organic layers were dried (MgSO4), filtered and evaporated. The residue was purified by column chromatography (SiO2, heptane/EtOAc=1:1 to yield a white solid, (0.292 g, 61%); MS (ISP): 316.0 ((M+H)+/); 216.1 ((M+H—BOC)+.).

reactant | lithium borohydride | [BH4-].[Li+]
reactant | (R)-3-benzenesulfonyl-2-tert-butoxycarbonylamino-propionic acid methyl ester | 1.51 mmol, 0.52 g | COC([C@H](CS(=O)(=O)C1=CC=CC=C1)NC(=O)OC(C)(C)C)=O | C15H21NO6S
reactant | methanol | CO | CH4O
reactant | H—BOC | C(=O)OC(C)(C)C | C5H10O2
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.28 mmol, 2M, 1.14 ml | O1CCCC1 | C4H8O
product | ((R)-2-Benzenesulfonyl-1-hydroxymethyl-ethyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H](CS(=O)(=O)C1=CC=CC=C1)CO)=O | C14H21NO5S
